US08802712B2
6,7-Dimethoxy-4-methyl-3-nitroquinoline (5.80 g, 23.36 mmol) is dissolved in tetrahydrofuran (60 ml). Palladium on carbon (5%, 2.90 g, water-moist) is subsequently added, and the suspension is stirred turbulently in a hydrogen atmosphere at room temperature for 16 h. When the reaction is complete, the solid material is filtered off with suction through kieselguhr and rinsed with tetrahydrofuran. The filtrate is evaporated to dryness in vacuo, giving 3-amino-6,7-dimethoxy-4-methylquinoline (4.05 g, 18.56 mmol) as a solid. MS: 219.0 (M+H+), TLC (HPTLC): Rf=0.35 (ethyl acetate/ethanol 8:1, parts by volume).

reactant | 6,7-Dimethoxy-4-methyl-3-nitroquinoline | 23.36 mmol, 5.80 g | COC=1C=C2C(=C(C=NC2=CC1OC)[N+](=O)[O-])C | C12H12N2O4
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
catalyst | Palladium on carbon | 2.90 g | [Pd] | Pd
product | 3-amino-6,7-dimethoxy-4-methylquinoline | 18.56 mmol, 4.05 g | NC=1C=NC2=CC(=C(C=C2C1C)OC)OC | C12H14N2O2
